US05015651
5-n-propyl-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxaldehyde
To a solution of 5-n-propyl-1-[2'-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxaldehyde (4.05 g, 6.6 mmol) in THF (25 ml) was added 4N HCl (11 ml) with stirring. The mixture was stirred at room temperature for 5 hours. The THF was removed by rotary evaporation and the residue was adjusted to pH 5-6 with 4N NaOH (~10 ml). The product was extracted into EtOAc (2×50 ml), the organic layer was dried (MgSO4), filtered and concentrated. Flash chromatography of the reddish solid residue (1.97 g) on silica gel (30 g; EtOAc/hexanes, 1/1) gave 1.4 g of the title compound as a pale pink solid; m.p. 68°-71° C.

reactant | 5-n-propyl-1-[2'-(1-triphenylmethyltetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxaldehyde | 6.6 mmol, 4.05 g | C(CC)C1=CC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C41H35N5O
reactant | HCl | 4N, 11 ml | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-n-propyl-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl-methyl]pyrrole-2-carboxaldehyde | 1.4 g | C(CC)C1=CC=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=O | C22H21N5O
